US03934008
45. Z-Thr(tBu)-Phe-Pro-Gln-Thr(tBu)-Ala-Ile-Gly-OH
2.8 g of Z-Thr(tBu)-Phe-Pro-OH and 0.77 ml of absolute triethylamine are dissolved in 30 ml of dry tetrahydrofurane and the solution, cooled to -10°C, is added dropwise to 700 mg of isobutyl chlorocarbonate, care being taken for the temperature not to exceed -5°C. The mixture is then left for 10 minutes at -10°C and is thereafter added to a solution, precooled to -20°C, of 2.5 g of H-Gln-Thr(tBu)-Ala-Ile-Gly-OH.HCl in 65 ml of dimethylformamide-water (9:1). 1.2 ml of triethylamine are then added dropwise and the mixture is left for 1 hour at -10°C and for 18 hours at 0°C. It is thereafter concentrated, in vacuo and then in a high vacuum at 40°C bath temperature, to a volume of about 15 ml and then precipitated by adding 100 ml of ice-cold 2 % strength acetic acid. The product is filtered off, washed with ice water, dried and twice reprecipitated from methanol-water to purify it; yield 3.9 g of octapeptide derivative.

reactant | Z-Thr(tBu)-Phe-Pro-OH | 2.8 g | N([C@@H]([C@H](OC(C)(C)C)C)C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)N1[C@H](C(=O)O)CCC1)C(=O)OCC1=CC=CC=C1 | C30H39N3O7
reactant | triethylamine | 0.77 ml | C(C)N(CC)CC | C6H15N
reactant | isobutyl chlorocarbonate | 700 mg | C(OCC(C)C)(=O)Cl | C5H9ClO2
reactant | H-Gln-Thr(tBu)-Ala-Ile-Gly-OH.HCl | 2.5 g | N[C@@H](CCC(N)=O)C(=O)N[C@@H]([C@H](OC(C)(C)C)C)C(=O)N[C@@H](C)C(=O)N[C@@H]([C@@H](C)CC)C(=O)NCC(=O)O.Cl
reactant | triethylamine | 1.2 ml | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofurane | 30 ml | O1CCCC1 | C4H8O
solvent | dimethylformamide water | 65 ml | CN(C=O)C.O
product | Z-Thr(tBu)-Phe-Pro-Gln-Thr(tBu)-Ala-Ile-Gly-OH | N([C@@H]([C@H](OC(C)(C)C)C)C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)N1[C@H](C(=O)N[C@@H](CCC(N)=O)C(=O)N[C@@H]([C@H](OC(C)(C)C)C)C(=O)N[C@@H](C)C(=O)N[C@@H]([C@@H](C)CC)C(=O)NCC(=O)O)CCC1)C(=O)OCC1=CC=CC=C1 | C54H81N9O14
